US04336182
PREPARATION OF POLY(DICARBONYLPIPERAZIN-IMIDAZOLIDIN-2-ONE)
An analogous product is obtained when, instead of imidazolidin-2-one there is used either hexahydropyrimidin-2-one or 2,3-diketopiperazine.

reactant | imidazolidin-2-one | N1C(NCC1)=O | C3H6N2O
reactant | hexahydropyrimidin-2-one | N1C(NCCC1)=O | C4H8N2O
reactant | 2,3-diketopiperazine | O=C1NCCNC1=O | C4H6N2O2
product | DICARBONYLPIPERAZIN IMIDAZOLIDIN-2-ONE | C(=O)=C1C(NCCN1)=C=O.N1C(NCC1)=O | InChI=1S/C6H6N2O2.C3H6N2O/c9-3-5-6(4-10)8-2-1-7-5;6-3-4-1-2-5-3/h7-8H,1-2H2;1-2H2,(H2,4,5,6)
